US05929085
(d) 7-Amino-10-methyl-2,3,5,10,11,11a-hexahydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine hydrochloride
To 10-methyl-7-nitro-2,3,5,10,11,11a-hexahydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine hydrochloride (2.6 g, 9.16 mmol) in methanol (100 ml) was added a catalytic amount of 10% Pd--C. The mixture was hydrogenated at 50 psi for 1 h, filtered, and concentrated to an oil which was used immediately in the next reaction.

reactant | 10-methyl-7-nitro-2,3,5,10,11,11a-hexahydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine hydrochloride | 9.16 mmol, 2.6 g | Cl.CN1CC2N(CC3=C1C=CC(=C3)[N+](=O)[O-])CCC2
solvent | methanol | 100 ml | CO | CH4O
product | 7-Amino-10-methyl-2,3,5,10,11,11a-hexahydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine hydrochloride | Cl.NC=1C=CC2=C(CN3C(CN2C)CCC3)C1 | InChI=1S/C13H19N3.ClH/c1-15-9-12-3-2-6-16(12)8-10-7-11(14)4-5-13(10)15;/h4-5,7,12H,2-3,6,8-9,14H2,1H3;1H
